US04155913
1.2 g of 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione are refluxed for 1.5 hours together with 2 g of cyanoacetic acid hydrazide in 80 ml of absolute methanol, a dry nitrogen stream being conducted through the solution. The solution is concentrated to 10 ml and left to crystallize. The 7-chloro-5-(o-chlorophenyl)-2-(2-cyanoacetylhydrazino)-3H-thieno[2,3-e]-1,4-diazepine, which is filtered off under a vacuum and dried, is refluxed for 2 hours in 150 ml of absolute xylene. The solution is evaporated and the residue recrystallized from ethyl acetate containing active carbon to yield 2-chloro-4-(o-chlorophenyl)-9-cyanomethyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine, melting point 217°-220° C.

reactant | 7-chloro-5-(o-chlorophenyl)-1,3-dihydro-2H-thieno[2,3-e]-1,4-diazepine-2-thione | 1.2 g | ClC1=CC2=C(NC(CN=C2C2=C(C=CC=C2)Cl)=S)S1 | C13H8Cl2N2S2
reactant | cyanoacetic acid hydrazide | 2 g | C(#N)CC(=O)NN | C3H5N3O
solvent | methanol | 80 ml | CO | CH4O
product | 2-chloro-4-(o-chlorophenyl)-9-cyanomethyl-6H-thieno[3,2-f]-s-triazolo[4,3-a][1,4]diazepine | ClC1=CC=2C(=NCC=3N(C2S1)C(=NN3)CC#N)C3=C(C=CC=C3)Cl | C16H9Cl2N5S
